US08048862B2
To a solution of 2-chloro-1H-benzo[d]imidazole (152 mg, 1.0 mmol.) in DMF was added K2CO3 (277 mg, 2.0 mmol.) and iodocyclopentane (295 mg, 1.5 mmol.). The reaction mixture was stirred at room temperature for 24 hours. The reaction mixture was poured into ice-water. The mixture was extracted with ethyl acetate (30 mL×3), washed with brine, dried over Na2SO4, concentrated to give a residue, which was purified by column chromatography to afford 2-chloro-1-cyclopentyl-1H-benzo[d]imidazole (130 mg, 59%). 1H NMR (400 MHz, CDCl3) δ 7.68˜7.60 (m, 1 H), 7.39˜7.30 (m, 1 H), 7.20˜7.15 (m, 2 H), 5.04˜4.90 (m, 1 H), 2.25˜1.92 (m, 6 H), 1.85˜1.70 (m, 2 H).

reactant | 2-chloro-1H-benzo[d]imidazole | 1.0 mmol, 152 mg | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | K2CO3 | 2.0 mmol, 277 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | iodocyclopentane | 1.5 mmol, 295 mg | IC1CCCC1 | C5H9I
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-chloro-1-cyclopentyl-1H-benzo[d]imidazole | 130 mg, 59% | ClC1=NC2=C(N1C1CCCC1)C=CC=C2 | C12H13ClN2
